US08859553B2
3-(2-(6-(Cyclobutylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclobutyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 120-121° C.; 1H NMR (300 MHz, CDCl3) δ: 9.10 (1H, s), 8.05 (1H, s), 7.97-7.80 (1H, d, J=9.0 Hz), 7.94 (1H, s), 7.81-7.83 (1H, d, J=6.0 Hz), 7.64-7.66 (1H, d, J=6.0 Hz), 7.28-7.31 (1H, d, J=9.0 Hz), 7.26-7.28 (1H, d, J=6.0 Hz), 6.57-5.59 (1H, d, J=2.0 Hz), 5.53 (1H, s), 4.22-4.27 (1H, m), 3.64 (2H, s), 2.65 (8H, brs), 2.49 (3H, s), 2.45 (3H, s), 2.44 (2H, m), 1.93-1.99 (2H, m), 1.83-1.89 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C31H34F3N6O: 563.2741. found: 563.2768.

reactant | N-cyclobutyl-6-ethynylpyridazin-3-amine | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
reactant | 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
product | 3-(2-(6-(Cyclobutylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | C1(CCC1)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C31H33F3N6O
